US08669361B2
Following the procedure for Example 332 starting with (S)-tert-butyl 4-(benzyloxycarbonylamino)azepane-1-carboxylate and 5-chloro-1-methyl-4-nitro-1H-pyrazole gave (S)-tert-butyl 4-(1-methyl-4-nitro-1H-pyrazol-5-ylamino)azepane-1-carboxylate as a yellow viscous oil (103 mg, 49%). 1H NMR (400 MHz, CDCl3) δ 7.90 (s, 1H), 6.60-6.50 (m, 1H), 3.80 (s, 3H), 3.79-3.67 (m 1H), 3.60-3.52 (m, 1H), 3.49-3.44 (m, 1H), 3.44-3.22 (m, 2H), 2.25-2.10 (m, 1H), 2.05-1.62 (m, 5H), 1.48 (s, 9H)

reactant | (S)-tert-butyl 4-(benzyloxycarbonylamino)azepane-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CCN(CCC1)C(=O)OC(C)(C)C | C19H28N2O4
reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
product | (S)-tert-butyl 4-(1-methyl-4-nitro-1H-pyrazol-5-ylamino)azepane-1-carboxylate | 103 mg, 49% | CN1N=CC(=C1N[C@@H]1CCN(CCC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C15H25N5O4
